US06051712
A solution of 150 mg (0.38 mmol) of tert-butyl (3RS,4RS)-3-(2-aminomethyl-benzyloxy)-4-phenyl-piperidine-1-carboxylate in 2 ml of methylene chloride was treated with 229 mg (2.26 mmol) of triethylamine, 139 mg (1.05 mmol) of nicotinic acid, 216 mg (1.13 mmol) of EDC and 10 mg (0.08 mmol) of 4-dimethylaminopyridine and the mixture was stirred at room temperature for 24 hours. Thereafter, the reaction solution was diluted with methylene chloride and washed with a saturated sodium hydrogen carbonate solution. The organic phase was separated, dried over sodium sulphate and evaporated under reduced pressure. The residue was chromatographed on silica gel using ethyl acetate as the eluent. There were obtained 100 mg (53% of theory) of tert-butyl (3RS,4RS)-4-phenyl-3-(2-{[(pyridine-3-carbonyl)-amino]-methyl}-benzyloxy)-piperidine-1-carboxylate as a colourless solid; MS: 502 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-(2-aminomethyl-benzyloxy)-4-phenyl-piperidine-1-carboxylate | 0.38 mmol, 150 mg | NCC1=C(COC2CN(CCC2C2=CC=CC=C2)C(=O)OC(C)(C)C)C=CC=C1 | C24H32N2O3
reactant | triethylamine | 2.26 mmol, 229 mg | C(C)N(CC)CC | C6H15N
reactant | nicotinic acid | 1.05 mmol, 139 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | EDC | 1.13 mmol, 216 mg
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.08 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl (3RS,4RS)-4-phenyl-3-(2-{[(pyridine-3-carbonyl)-amino]-methyl}-benzyloxy)-piperidine-1-carboxylate | 100 mg, 53% | C1(=CC=CC=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=C(C=CC=C1)CNC(=O)C=1C=NC=CC1 | C30H35N3O4
